Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / monosodium glutamate / Shellfish / amlodipine / 
Lipitor / lisinopril
 
Attending: ___.
 
Chief Complaint:
Shortness of breath on exertion
 
Major Surgical or Invasive Procedure:
Coronary angiogram on ___

 
History of Present Illness:
 ___ is a ___ year old man with a history of migraines, 
hypertension, polycythemia ___ receiving weekly phlebotomy who  

 presented with with several months of worsening dyspnea on 
exertion  
 and subacute onset headaches. For the past 10 days he has had 
worsening headaches, as well as dyspnea on exertion and 
disequilibrium that is present at rest but worsened by exertion 
as well. Has been having intermittent stabbing sensations in the 
left chest wall that resolve within seconds, as well as 2 weeks 
of substernal burning that are worse at night/laying down.  
 In the ED initial vitals were: T 98.1 HR 67 BP 178/89 RR 16 O2 
100% on RA  
 EKG: SR 62, NA, NI, no ST changes  
 Labs/studies notable for:  
 - Trop-T <0.01 x2 ___ @___, ___ @noon)  
 - Urine tox negative & UA WNL  
 - Coags WNL, lactate WNL  
 - CHEM10 unremarkable. Cr 0.9. K 4.3. Mg 2.1  
 - CBC unremarkable  
 - CTA done, no e/o PE  
 - CTH done, no changes to previously noted meningioma on ___ MRI  
 Patient was given: Toradol 30 mg IV, Zofran 4 mg IV, 100 mg 
Losartan, Aspirin 81 mg, Metoclopramide 10 mg  
 Patient had an exercise tolerance test done which was 
concerning for drop of systolic blood pressure at peak exercise, 
so the patient was sent to cath. Uninterpretable for ischemia 
due to the development of the LBBB, which resolved with 
recovery.  
 The cath showed branch disease and some RCA disease but no 
stenting was felt to be needed. The interventional cardiologists 
advised overnight admission for medical management of CAD.  
 On the floor, the patient reports that yesterday he was having 
neck pain and headache which was the reason he came into the ER. 
This headache was different than his prior migraines because his 
prior migraines were associated with nausea/vomiting and this 
was not. He says that they started with pain in the neck on both 
sides that radiated up to the back of the head and behind the 
eyes on both sides. Denied photophobia or phonophobia. Neurology 
so the patient and felt this was consistent with migraines and 
he was given migraine cocktail of medications which he says 
helped him sleep last night. He then woke up this morning in the 
ED with a milder headache and this has been continuing all day 
since.  
 He also says that he has been having DOE for 6 months. Prior to 
6 months ago, he was able to do a lot of physical activity and 
now he gets tired and SOB with walking up stairs. Over the last 
6 weeks these symptoms have gotten worse. Denied associated 
chest pain/pressure, nausea, diaphoresis. He did endorse some 
twinges of chest pain that would go away on their own, occurred 
at rest and with exertion that were pinpoint over his left chest 
without radiation. He denies weight change, fevers/chills. He 
had never had any heart disease history before. He says that due 
to his P. ___, he was told not to start statin medications. He 
was tried on crestor and Lipitor before but says that he had 
scalp pain where it hurt to "brush his hair" so those had been 
stopped. He also got a cough from lisinopril so has not been 
able to take those. He is currently on a low iron diet due to 
the P ___. He gets phlebotomy once a week at this time.  
 REVIEW OF SYSTEMS:  
 Cardiac review of systems is notable for absence of chest pain, 
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea, 
ankle edema, palpitations, syncope, or presyncope.  
 On further review of systems, denies any prior history of 
stroke, TIA, deep venous thrombosis, pulmonary embolism, 
bleeding at the time of surgery, myalgias, joint pains, cough, 
hemoptysis, black stools or red stools. Denies exertional 
buttock or calf pain. Denies recent fevers, chills or rigors. 
All of the other review of systems were negative.  

 
Past Medical History:
 PAST MEDICAL HISTORY:  
 1. CARDIAC RISK FACTORS  
 - Hypertension  
 - Hyperlipidemia  
 2. CARDIAC HISTORY  
 - CABG: None  
 - PERCUTANEOUS CORONARY INTERVENTIONS: None  
 - PACING/ICD: None  
 3. OTHER PAST MEDICAL HISTORY  
 - Polycythemia ___  
 - Hypogonadism  
 
Social History:
___
Family History:
 No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death.  

 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
 VS: 98.7, 139/98, 77, 18, 97% on RA  
 GENERAL: WDWN man in NAD. Oriented x3. Mood, affect 
appropriate.  
 HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

 NECK: Supple with no JVP appreciated. Tender to palpation over 
trapezius muscles and back of neck.  
 CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RRR, normal S1, S2. No murmurs/rubs/gallops. No thrills, 
lifts.  
 LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.  
 ABDOMEN: Soft, NTND. No HSM or tenderness.  
 EXTREMITIES: No c/c/e. No femoral bruits.  
 SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
 PULSES: Distal pulses palpable and symmetric  
 Neuro: AAOX3, CN II-XII intact. ___ strength throughout 
extremities.  

DISCHARGE PHYSICAL EXAMINATION: 
- VITALS: Tm 98.8 Tc 97.7 Bp 110s-140s/60s-70s HR ___ Satting 
well RA
- I/Os: I24 640 I8 631 / O24 BRP O8 BRP 
- WEIGHT: ___: 104.0 kg | ___: 103.8kg
- WEIGHT ON ADMISSION: 103.8kg  
- TELEMETRY: NSR
GENERAL: Comfortable, pleasant, NAD 
HEENT:  NC/AT, EOMI, MMM
LUNGS:  CTAB
HEART:  RRR, no murmurs
ABDOMEN:  Soft, ND, NTTP
EXT:  WWP, no edema

 
Pertinent Results:
______________________
ADMISSION LABS: 

___ 08:48PM BLOOD WBC-7.6 RBC-6.52* Hgb-13.8 Hct-46.8 
MCV-72* MCH-21.2* MCHC-29.5* RDW-20.6* RDWSD-48.8* Plt ___
___ 08:48PM BLOOD Neuts-58.1 ___ Monos-7.9 Eos-2.4 
Baso-0.5 Im ___ AbsNeut-4.41 AbsLymp-2.31 AbsMono-0.60 
AbsEos-0.18 AbsBaso-0.04
___ 08:48PM BLOOD Glucose-93 UreaN-13 Creat-0.9 Na-137 
K-4.3 Cl-101 HCO3-24 AnGap-16
___ 08:48PM BLOOD ALT-63* AST-32 AlkPhos-79 TotBili-0.4
___ 08:48PM BLOOD cTropnT-<0.01
___ 08:48PM BLOOD Albumin-4.4 Calcium-9.3 Phos-4.1 Mg-2.1
______________________
STUDIES:
 
___ Cardiovascular STRESS 

___ Imaging CTA CHEST:

1.  No evidence of pulmonary embolism or aortic abnormality. 
2.  4 mm solid right middle lobe pulmonary nodule, age 
indeterminate.  If the patient is at high risk for malignancy, 
recommend follow-up chest CT in ___ year. 

___ Imaging MRV HEAD W/O CONTRAST:

1. The left transverse and sigmoid sinuses are notably 
hypoplastic, findings 
confirmed on contrast enhanced MRI performed ___. No 
evidence of 
dural venous sinus thrombosis. 
2. Incidentally, the distal right internal carotid artery 
appears hypoplastic, 
which can be instantly seen on prior MRI of ___, on which the 
cavernous 
carotid flow voids are notably asymmetric.  This may represent 
hypoplasia 
versus chronic occlusion. 
3. An extra-axial mass most consistent with a meningioma 
overlying the left 
occipital lobe and abutting the superior sagittal sinus is 
unchanged, within 
limits of current technique. 

___ Cardiovascular Cath Physician ___:

Coronary Anatomy
Dominance: Right
The LMCA had no angiographically apparent CAD. The LAD had 
diffuse plaquing and a 50% proximal
stenosis at S1 that had origin 90% stenosis in a vessel no 
suitable for PCI. The Cx had 50% mid vessel
stenosis. The RCA had mild luminal irregularities.
Impressions:
1. Moderate CAD.
Recommendations
1. Medical management for secondary prevention CAD.

___ Cardiovascular STRESS ECHO: 

LVEF 60%

The patient exercised for 9 minutes and 45 seconds according to 
a Modified ___ treadmill protocol ___ METS) reaching a peak 
heart rate of 135 bpm and a peak blood pressure of 180/75 mmHg. 
The test was stopped because of fatigue. This level of exercise 
represents a fair exercise tolerance for age and gender. The 
exercise ECG was uninterpretable in the presence of a rate 
related LBBB (see exercise report for details). There is normal 
resting blood pressure with normal blood pressure and heart rate 
responses to stress. 
  
IMPRESSION: Anginal type symptoms with uninterpretable EKG for 
ischemia 
in setting of exercise-induced LBBB. Fair functional capacity. 
Echo 
report sent separately. 

 Resting images were acquired at a heart rate of 63 bpm and a 
blood pressure of 102/68 mmHg. These demonstrated normal 
regional and global left ventricular systolic function. Biplane 
LVEF = 60 %. Right ventricular free wall motion is normal. 
Doppler demonstrated no aortic stenosis, aortic regurgitation or 
significant mitral regurgitation or resting LVOT gradient. .

 Echo images were acquired within 80 seconds after peak stress 
at heart rates of 94 - 77 bpm. These demonstrated appropriate 
augmentation of all left ventricular segments. 

 IMPRESSION: Fair functional exercise capacity for age and 
gender. Uniterpretable ECG in the absence of 2D 
echocardiographic evidence of inducible ischemia to achieved 
workload. Normal hemodynamic response to exercise.
 Suboptimal study - post-stress images acquired at heart rates 
much lower than that achieved with exercise. 

___ Imaging CTA HEAD AND CTA NECK:
 
1. Occlusion of the right internal carotid artery from its 
origin to the 
intracranial segments, with trace retrograde collateral flow to 
the cavernous 
and distal petrous segments by the anterior circulation. Finding 
may 
represent extensive atherosclerotic disease, although 
possibility of an 
underlying dissection cannot be excluded. 
2. No evidence of infarction, hemorrhage, or edema. 
3. Stable hyperdense and partially calcified left occipital 
extra-axial mass, 
likely meningioma. 
4. Otherwise, patency of the intracranial vasculature. 
5. Mild atherosclerotic disease of the left carotid siphon 
without left ICA 
stenosis by NASCET criteria. 

______________________
DISCHARGE LABS: 

___ 08:48PM   PLT COUNT-461*
___ 07:30AM BLOOD WBC-7.7 RBC-6.23* Hgb-13.4* Hct-45.0 
MCV-72* MCH-21.5* MCHC-29.8* RDW-19.9* RDWSD-47.8* Plt ___
___ 07:30AM BLOOD Glucose-90 UreaN-16 Creat-1.1 Na-141 
K-4.8 Cl-107 HCO3-24 AnGap-15
___ 07:30AM BLOOD Calcium-8.7 Phos-3.7 Mg-2.3
 
Brief Hospital Course:
___ is a ___ year old man with a history of hypertension, 
hyperlipidemia, polycythemia ___, headaches who initially 
presented to ___ with a severe headache likely secondary to 
migraine found to have worsening dyspnea on exertion over the 
past 6 months. Upon arrival to ___, the patient was seen by 
the Neurology service who deemed that his HA was likely 
secondary to his known migraines. CTA head and neck were 
unremarkable. He was given medication and his symptoms improved, 
so these headaches were felt to be at least partially 
musculoskeletal in origin. 

While here, the patient noted that he has been having worsening 
dyspnea on exertion for the past 6 months. CTA negative. He was 
evaluated by cardiology and underwent an exercise stress test 
that was notable for a new LBBB with peak exertion as well as 
drop in systolic BPs (200->160) with exercise with associated 
chest tightness. He therefore underwent coronary angiography on 
___ which showed: LAD 50% stenosis, S1 90% stenosis, LCx 50%, 
RCA mild disease c/w small vessel CAD not amenable to PCI. Given 
the degree of his symptoms and the lack of significant CAD, 
there was concern for possible ventricular dysynchrony and 
therefore a stress TTE was obtained which was reassuringly 
normal. It is unclear what is the source of his worsening 
dyspnea on exertion, however, unlikely cardiac in etiology. Will 
need close follow-up with Pulmonology, Cardiology, and 
Hematology for continued work-up.

#DYSPNEA ON EXERTION:  
Patient has a 6month history of worsening dyspnea on exertion 
with exercise stress test with LBBB at peak exercise and concern 
for systolic blood pressure drop (200 to 160s). He is now s/p 
cath with coronary artery disease not amenable to PCI. Unclear 
cause of dyspnea and progressive worsening. Given PVera, patient 
is hypercoaguable but CTA negative for PE. ___ have diffuse 
thromboembolic disease that would be better evaluated by V/Q 
scan. No murmur on exam making valvular pathology less likely. 
S/P TTE and stress TTE which revealed no dysynchrony or valvular 
pathology. 
- Continued aspirin 81 mg
- Started atorvastatin 80 mg (OK per outpatient hematology and 
PCP. Patient though there might be some reason he couldn't take 
it) 
- Continued metoprolol succinate 25 mg DAILY    
- Continued losartan 100 mg daily  
- OK to discharge home with pulmonary, hematology and cardiology 
follow up. Final cause of dyspnea is unclear from testing done 
inpatient. 
 
#HEADACHES: 
Most likely secondary to muscle spasm/pain in neck and upper 
back triggering severe headaches. Neurology was consulted in the 
ED and felt that headaches were due to migraines. Could also be 
musculoskeletal in nature as he had tenderness to palpation in 
the occipital region and super prior of the trapezius. Continued 
to have some mild headache symptoms.   
- Tylenol 1g q6h  
- Migraine cocktail: metoclopramide and Zofran   
- CTA with findings as noted above, but did not explain the 
patient's symptoms
 
CHRONIC/STABLE ISSUES:  
==================================  
#HYPERTENSION: Continued home losartan  
#HYPERLIPIDEMIA: Started Atorvastatin 80 mg  
#P. ___: Nothing to do inpatient
 
Transitional Issues:
=========================
New Medications:
- Metoprolol Succinate 25mg daily
- Cyclobenzaprine 10mg TID prn
- Atorvastatin 80 mg daily

Incidental Findings Requiring Follow-Up:
4 mm solid right middle lobe pulmonary nodule, age 
indeterminate. If the patient is at high risk for malignancy, 
recommend follow-up chest CT in ___ year.

Other:
- CORONARIES: LAD 50% stenosis, 90% S1 stenosis (not suitable 
for PCI), LCx 50%, RCA mild disease
- PUMP: EF 60% on ___
- Needs Pulmonary, Cardiology and Heme-Onc follow-up for further 
work-up of dyspnea on exertion 
- Consider V/Q scan to assess for CTEPH
- Code: DNR, okay to intubate 
***** The patient was noted to have occlusion of the right 
internal carotid artery from its origin to the intracranial 
segments, with trace retrograde collateral flow to the cavernous 
and distal petrous segments by the anterior circulation. No 
evidence of infarction, hemorrhage, or edema. Mild 
atherosclerotic disease of the left carotid siphon without left 
ICA stenosis by NASCET criteria. Spoke with neurology who was 
following and they agreed with aspirin/statin management. 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Losartan Potassium 100 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*0 
2.  Cyclobenzaprine 10 mg PO TID:PRN neck pain 
RX *cyclobenzaprine 10 mg 1 tablet(s) by mouth three times a day 
Disp #*21 Tablet Refills:*0 
3.  Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0 
4.  Aspirin 81 mg PO DAILY  
5.  Losartan Potassium 100 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
=======
Dyspnea on exertion
Headache
Coronary Artery Disease

Secondary:
==========
___

 
___ Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you during your stay at ___ 
___.

Why you were admitted?
- You came to the Emergency Department for the headache you were 
experiencing
- Once here, you also expressed that you were having worsening 
shortness of breath with exercise

What was done for you while you were here?
- The Neurology Team evaluated you for your headache and deemed 
that is was likely due to a migraine. A CT scan of your head 
showed nothing abnormal and was reassuring. 
- A stress test was done to evaluate your shortness of breath 
and there was concern that your blood pressure dropped during 
this examination therefore you underwent cardiac catheterization 
that showed minor blockages in your arteries but nothing that 
required intervention
- You also had a stress echo that was reassuringly normal
- You were placed on new medications to help with your coronary 
artery disease

What should you do when you leave the hospital?
- Take all your medications as prescribed
- Follow-up with the pulmonary doctors, cardiologists, and 
hematologists for further work-up of your shortness of breath
- Please return to the hospital or seek medical attention if you 
develop worsening chest pain, headaches, shortness of breath, 
leg swelling or any other symptoms that concern you

We wish you all the best!
Your ___ Team
 
Followup Instructions:
___